US04617389
This compound was prepared by the procedure described in Example 1, except that the potassium carbonate was omitted. From 80 mg. of mitomycin A and 0.1 ml. of 3,4-methylenedioxyaniline was obtained 50 mg. (48% yield) of the desired product having a melting point of 86°-88° C. (decomposition) and providing the following analysis:

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
product | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
